US07402595B2
2-benzyl-6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
2-Benzyl-6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (160 mg) was dissolved in DMF (3 ml), and methyl iodide (0.06 ml) and potassium carbonate (120 mg) were added at room temperature. The mixture was stirred for 12 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine. The solvent was dried over anhydrous sodium sulfate and evaporated under reduced pressure, and the obtained residue was crystallized from ethyl acetate-hexane to give the title compound (120 mg).

reactant | 2-Benzyl-6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 160 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)OC)=O | C24H19NO4
reactant | methyl iodide | 0.06 ml | CI | CH3I
reactant | potassium carbonate | 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-benzyl-6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 120 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)OC)=O)CC1=CC=CC=C1 | C25H21NO4
